US08420816B2
STEP A: (R)-tert-butyl 1-(cyclopentylamino)-3-hydroxy-3-methyl-1-oxobutan-2-ylcarbamate
To a mixture of (R)-2-(tert-butoxycarbonylamino)-3-hydroxy-3-methylbutanoic acid (0.5 g, 2.144 mmol), HATU (0.978 g, 2.57 mmol) and cyclopentanamine (0.423 mL, 4.29 mmol) in DCM (10 mL) was added Et3N (0.598 mL, 4.29 mmol). The reaction mixture was stirred at room temperature for 5 h and then washed with saturated aqueous NaHCO3 and brine. The organics were dried over MgSO4, concentrated, and purified by silica column chromatography (MeOH/DCM, 0-10%) to afford the title compound (0.6 g, 93%).

reactant | (R)-2-(tert-butoxycarbonylamino)-3-hydroxy-3-methylbutanoic acid | 2.144 mmol, 0.5 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C(C)(C)O | C10H19NO5
reactant | HATU | 2.57 mmol, 0.978 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopentanamine | 4.29 mmol, 0.423 mL | C1(CCCC1)N | C5H11N
reactant | Et3N | 4.29 mmol, 0.598 mL | CCN(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 1-(cyclopentylamino)-3-hydroxy-3-methyl-1-oxobutan-2-ylcarbamate | 0.6 g, 93% | C1(CCCC1)NC([C@@H](C(C)(C)O)NC(OC(C)(C)C)=O)=O | C15H28N2O4
